US07495013B2
(4S,5R)-1-[[4-[[4-(3,4-Dichlorophenoxy)-1-piperidinyl]methyl]-1-piperidinyl]acetyl]-3,4-dimethyl-5-phenyl-2-imidazolidinone
2,6Lutidine (18.26 mL) was added to a stirred suspension of (4R,5S)-1,5-dimethyl-4-phenylimidazolidin-2-one (27.33 g) in anhydrous tetrahydrofuran (300 mL) at 0° C. under nitrogen. Bromoacetyl bromide (11.95 mL) was added over 5 minutes and the mixture was stirred for a further 15 minutes. Saturated aqueous sodium bicarbonate solution (300 mL) was added followed by 4-(3,4-dichlorophenoxy)-1-(4-piperidinylmethyl)piperidine (44.86 g) and the mixture was stirred for 24 hours at ambient temperature. Water (300 mL) was added and the mixture was extracted with tert-butyl methyl ether (300 mL). The organic extracts were dried over anhydrous magnesium sulfate, filtered and evaporated under reduced pressure. The residue was suspended in tert-butyl methyl ether (300 mL) and stirred for 3 days. The resulting solid was filtered, washed with tert-butyl methyl ether (3×50 mL) and dried in under reduced pressure to give the title compound (45.65 g) as a solid.

reactant | 2,6Lutidine | 18.26 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | (4R,5S)-1,5-dimethyl-4-phenylimidazolidin-2-one | 27.33 g | CN1C(N[C@@H]([C@@H]1C)C1=CC=CC=C1)=O | C11H14N2O
reactant | Bromoacetyl bromide | 11.95 mL | BrCC(=O)Br | C2H2Br2O
reactant | sodium bicarbonate | 300 mL | C([O-])(O)=O.[Na+]
reactant | 4-(3,4-dichlorophenoxy)-1-(4-piperidinylmethyl)piperidine | 44.86 g | ClC=1C=C(OC2CCN(CC2)CC2CCNCC2)C=CC1Cl | C17H24Cl2N2O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | Water | 300 mL | O | H2O
product | (4S,5R)-1-[[4-[[4-(3,4-Dichlorophenoxy)-1-piperidinyl]methyl]-1-piperidinyl]acetyl]-3,4-dimethyl-5-phenyl-2-imidazolidinone | 45.65 g | ClC=1C=C(OC2CCN(CC2)CC2CCN(CC2)CC(=O)N2C(N([C@H]([C@H]2C2=CC=CC=C2)C)C)=O)C=CC1Cl | C30H38Cl2N4O3
